US06303620B1
4-Benzyl-4-methylcarbamoylpiperidine-1-carboxylic acid tert-butyl ester (2.8 g) was dissolved in a mixture of TFA and methylene chloride and stirred for 40 min. The solvent was removed in vacuo and the residue was dissolved in water (30 ml) and pH was adjusted to 13 with aqueous sodium hydroxide (1N). The aqueous phase was extracted with methylene chloride (3×75 ml) and the combined organic phases were dried (MgSO4) and evaporated in vacuo to afford 1.50 g of 4-benzylpiperidine-4-carboxylic acid methylamide.

reactant | 4-Benzyl-4-methylcarbamoylpiperidine-1-carboxylic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(NC)=O)CC1=CC=CC=C1 | C19H28N2O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-benzylpiperidine-4-carboxylic acid methylamide | 1.50 g | CNC(=O)C1(CCNCC1)CC1=CC=CC=C1 | C14H20N2O
